US03962448
Reaction of 2-benzyl-10-hydroxy-5,5,8-trimethyl-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine (100 mg., U.S. Pat. No. 3,535,327) with Pd/C in boiling cymene gives 10-hydroxy-5,5,8-trimethyl-5H[1]benzopyrano[3,4-d]pyridine.

reactant | 2-benzyl-10-hydroxy-5,5,8-trimethyl-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1O)C | C22H25NO2
reactant | cymene | C1(=CC=C(C=C1)C)C(C)C | C10H14
catalyst | Pd/C | [Pd] | Pd
product | 10-hydroxy-5,5,8-trimethyl-5H[1]benzopyrano[3,4-d]pyridine | OC1=CC(=CC2=C1C=1C(=CC=NC1)C(O2)(C)C)C | C15H15NO2
